* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.06853269683384826
Fd1_1 0 s1 V1 -3.4266348416924135
Gr1_1_1 0 s1 x1_a1 0 6485349349965.448
Gr2_re_1_1 0 s1 x2_re_a1 0 90564179354.79204
Gr2_im_1_1 0 s1 x2_im_a1 0 5818162031.473079
Gr3_re_1_1 0 s1 x3_re_a1 0 1.5220189247896494e+19
Gr3_im_1_1 0 s1 x3_im_a1 0 -1.3355320545428306e+19
Gr4_re_1_1 0 s1 x4_re_a1 0 -1.5323201053230455e+20
Gr4_im_1_1 0 s1 x4_im_a1 0 4.626762833163632e+19
Gr5_re_1_1 0 s1 x5_re_a1 0 2.0475582875752428e+20
Gr5_im_1_1 0 s1 x5_im_a1 0 -1.9985765687297266e+19
Gr6_re_1_1 0 s1 x6_re_a1 0 -5.15661881607593e+19
Gr6_im_1_1 0 s1 x6_im_a1 0 -2.2581736582507463e+19
Gr7_re_1_1 0 s1 x7_re_a1 0 -1.4887124425818468e+19
Gr7_im_1_1 0 s1 x7_im_a1 0 -6.312071001967219e+18
Gr8_re_1_1 0 s1 x8_re_a1 0 -2.906953816762738e+17
Gr8_im_1_1 0 s1 x8_im_a1 0 -3.141520908511511e+17
Gd1_2 0 s1 p2 0 -0.00026520872030105254
Fd1_2 0 s1 V2 -0.01326043601505263
Gr1_1_2 0 s1 x1_a2 0 25066950188.0912
Gr2_re_1_2 0 s1 x2_re_a2 0 351311396.7235307
Gr2_im_1_2 0 s1 x2_im_a2 0 10286053.566100674
Gr3_re_1_2 0 s1 x3_re_a2 0 5.7669600901003256e+16
Gr3_im_1_2 0 s1 x3_im_a2 0 -5.004400900712969e+16
Gr4_re_1_2 0 s1 x4_re_a2 0 -5.757772616592398e+17
Gr4_im_1_2 0 s1 x4_im_a2 0 1.7338747389021795e+17
Gr5_re_1_2 0 s1 x5_re_a2 0 7.677553710921138e+17
Gr5_im_1_2 0 s1 x5_im_a2 0 -7.49029470736557e+16
Gr6_re_1_2 0 s1 x6_re_a2 0 -1.9283309650471578e+17
Gr6_im_1_2 0 s1 x6_im_a2 0 -8.462835268075411e+16
Gr7_re_1_2 0 s1 x7_re_a2 0 -5.572623697566217e+16
Gr7_im_1_2 0 s1 x7_im_a2 0 -2.365535466738162e+16
Gr8_re_1_2 0 s1 x8_re_a2 0 -1088378755361764.0
Gr8_im_1_2 0 s1 x8_im_a2 0 -1177327243920631.5
Gd1_3 0 s1 p3 0 -0.0009070019809160734
Fd1_3 0 s1 V3 -0.04535009904580367
Gr1_1_3 0 s1 x1_a3 0 85976763513.89171
Gr2_re_1_3 0 s1 x2_re_a3 0 1254109987.0680737
Gr2_im_1_3 0 s1 x2_im_a3 0 80745330.2680912
Gr3_re_1_3 0 s1 x3_re_a3 0 2.132046958986443e+17
Gr3_im_1_3 0 s1 x3_im_a3 0 -1.844390575474408e+17
Gr4_re_1_3 0 s1 x4_re_a3 0 -2.1237249544447442e+18
Gr4_im_1_3 0 s1 x4_im_a3 0 6.390493542678688e+17
Gr5_re_1_3 0 s1 x5_re_a3 0 2.83015134362643e+18
Gr5_im_1_3 0 s1 x5_im_a3 0 -2.7607645268683744e+17
Gr6_re_1_3 0 s1 x6_re_a3 0 -7.102967873917265e+17
Gr6_im_1_3 0 s1 x6_im_a3 0 -3.1191709932217075e+17
Gr7_re_1_3 0 s1 x7_re_a3 0 -2.0532391987390416e+17
Gr7_im_1_3 0 s1 x7_im_a3 0 -8.718713548413678e+16
Gr8_re_1_3 0 s1 x8_re_a3 0 -4010384502045098.5
Gr8_im_1_3 0 s1 x8_im_a3 0 -4339303359792405.0
Gd1_4 0 s1 p4 0 -7.953140736769733e-06
Fd1_4 0 s1 V4 -0.0003976570368384867
Gr1_1_4 0 s1 x1_a4 0 728797552.2953084
Gr2_re_1_4 0 s1 x2_re_a4 0 7716304.829330059
Gr2_im_1_4 0 s1 x2_im_a4 0 317453.09343157057
Gr3_re_1_4 0 s1 x3_re_a4 0 1688228620272172.0
Gr3_im_1_4 0 s1 x3_im_a4 0 -1339740795240349.8
Gr4_re_1_4 0 s1 x4_re_a4 0 -1.5776970895100832e+16
Gr4_im_1_4 0 s1 x4_im_a4 0 4645931280417243.0
Gr5_re_1_4 0 s1 x5_re_a4 0 2.0670794792014428e+16
Gr5_im_1_4 0 s1 x5_im_a4 0 -2008596702664954.8
Gr6_re_1_4 0 s1 x6_re_a4 0 -5074175424916332.0
Gr6_im_1_4 0 s1 x6_im_a4 0 -2268473131947176.0
Gr7_re_1_4 0 s1 x7_re_a4 0 -1478939460910846.8
Gr7_im_1_4 0 s1 x7_im_a4 0 -634071986109937.1
Gr8_re_1_4 0 s1 x8_re_a4 0 -28937674438765.016
Gr8_im_1_4 0 s1 x8_im_a4 0 -31557541075598.95
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.7221393444511161e-13
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 4.396443193087424e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 253930416064.79025
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -253930416064.79025
Rp2_im_im_a1 0 x2_im_a1 4.396443193087424e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 2.0180011065671953e-08
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 3068405681.898521
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -3068405681.898521
Rp3_im_im_a1 0 x3_im_a1 2.0180011065671953e-08
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.7239657449517335e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 2260097173.6995287
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -2260097173.6995287
Rp4_im_im_a1 0 x4_im_a1 1.7239657449517335e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 1.621819706336256e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 1845330443.1955483
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -1845330443.1955483
Rp5_im_im_a1 0 x5_im_a1 1.621819706336256e-08
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.481140851724921e-08
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 1009654114.2511266
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -1009654114.2511266
Rp6_im_im_a1 0 x6_im_a1 1.481140851724921e-08
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.4043946267669873e-08
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 598294982.0440353
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -598294982.0440353
Rp7_im_im_a1 0 x7_im_a1 1.4043946267669873e-08
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.3815511828295456e-08
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 196101589.43515402
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -196101589.43515402
Rp8_im_im_a1 0 x8_im_a1 1.3815511828295456e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0002621781365094034
Fd2_1 0 s2 V1 -0.013108906825470171
Gr1_2_1 0 s2 x1_a1 0 24780161694.738415
Gr2_re_2_1 0 s2 x2_re_a1 0 347306316.86456066
Gr2_im_2_1 0 s2 x2_im_a1 0 10027350.252071317
Gr3_re_2_1 0 s2 x3_re_a1 0 5.699443102805598e+16
Gr3_im_2_1 0 s2 x3_im_a1 0 -4.9452189608933864e+16
Gr4_re_2_1 0 s2 x4_re_a1 0 -5.6898525003204397e+17
Gr4_im_2_1 0 s2 x4_im_a1 0 1.7133718019391958e+17
Gr5_re_2_1 0 s2 x5_re_a1 0 7.58681380144932e+17
Gr5_im_2_1 0 s2 x5_im_a1 0 -7.40172950436565e+16
Gr6_re_2_1 0 s2 x6_re_a1 0 -1.9054846229304656e+17
Gr6_im_2_1 0 s2 x6_im_a1 0 -8.36276666153859e+16
Gr7_re_2_1 0 s2 x7_re_a1 0 -5.506660266836795e+16
Gr7_im_2_1 0 s2 x7_im_a1 0 -2.337564189269966e+16
Gr8_re_2_1 0 s2 x8_re_a1 0 -1075498059496023.2
Gr8_im_2_1 0 s2 x8_im_a1 0 -1163405926111589.0
Gd2_2 0 s2 p2 0 -0.06717506001865917
Fd2_2 0 s2 V2 -3.3587530009329583
Gr1_2_2 0 s2 x1_a2 0 6357043591024.935
Gr2_re_2_2 0 s2 x2_re_a2 0 88767959906.44226
Gr2_im_2_2 0 s2 x2_im_a2 0 5766010981.589711
Gr3_re_2_2 0 s2 x3_re_a2 0 1.490670905948396e+19
Gr3_im_2_2 0 s2 x3_im_a2 0 -1.3089564064793047e+19
Gr4_re_2_2 0 s2 x4_re_a2 0 -1.5015626542414152e+20
Gr4_im_2_2 0 s2 x4_im_a2 0 4.534667279849721e+19
Gr5_re_2_2 0 s2 x5_re_a2 0 2.006729337825363e+20
Gr5_im_2_2 0 s2 x5_im_a2 0 -1.9587843165784478e+19
Gr6_re_2_2 0 s2 x6_re_a2 0 -5.054660419037447e+19
Gr6_im_2_2 0 s2 x6_im_a2 0 -2.2132190097180664e+19
Gr7_re_2_2 0 s2 x7_re_a2 0 -1.4591847966888356e+19
Gr7_im_2_2 0 s2 x7_im_a2 0 -6.186414151008613e+18
Gr8_re_2_2 0 s2 x8_re_a2 0 -2.8492574602739024e+17
Gr8_im_2_2 0 s2 x8_im_a2 0 -3.078981585972103e+17
Gd2_3 0 s2 p3 0 -7.0796947202508925e-06
Fd2_3 0 s2 V3 -0.00035398473601254464
Gr1_2_3 0 s2 x1_a3 0 652905581.6351384
Gr2_re_2_3 0 s2 x2_re_a3 0 7454445.151104201
Gr2_im_2_3 0 s2 x2_im_a3 0 326366.5906615607
Gr3_re_2_3 0 s2 x3_re_a3 0 1520626934113224.5
Gr3_im_2_3 0 s2 x3_im_a3 0 -1230643658192610.5
Gr4_re_2_3 0 s2 x4_re_a3 0 -1.4416563898938394e+16
Gr4_im_2_3 0 s2 x4_im_a3 0 4266754869651905.5
Gr5_re_2_3 0 s2 x5_re_a3 0 1.896317621656232e+16
Gr5_im_2_3 0 s2 x5_im_a3 0 -1844343005378449.5
Gr6_re_2_3 0 s2 x6_re_a3 0 -4679407060230890.0
Gr6_im_2_3 0 s2 x6_im_a3 0 -2083157300877947.2
Gr7_re_2_3 0 s2 x7_re_a3 0 -1361209241713040.5
Gr7_im_2_3 0 s2 x7_im_a3 0 -582276055666911.6
Gr8_re_2_3 0 s2 x8_re_a3 0 -26622990746393.793
Gr8_im_2_3 0 s2 x8_im_a3 0 -28979722731698.414
Gd2_4 0 s2 p4 0 -0.0009168453615272893
Fd2_4 0 s2 V4 -0.04584226807636447
Gr1_2_4 0 s2 x1_a4 0 85569229692.42218
Gr2_re_2_4 0 s2 x2_re_a4 0 1097551388.8349524
Gr2_im_2_4 0 s2 x2_im_a4 0 67861625.0915712
Gr3_re_2_4 0 s2 x3_re_a4 0 2.1317856018137312e+17
Gr3_im_2_4 0 s2 x3_im_a4 0 -1.7607497453503107e+17
Gr4_re_2_4 0 s2 x4_re_a4 0 -2.0516357929065014e+18
Gr4_im_2_4 0 s2 x4_im_a4 0 6.103422616872365e+17
Gr5_re_2_4 0 s2 x5_re_a4 0 2.709608690179903e+18
Gr5_im_2_4 0 s2 x5_im_a4 0 -2.6377822655322442e+17
Gr6_re_2_4 0 s2 x6_re_a4 0 -6.721881330216006e+17
Gr6_im_2_4 0 s2 x6_im_a4 0 -2.979614749089333e+17
Gr7_re_2_4 0 s2 x7_re_a4 0 -1.951481709601269e+17
Gr7_im_2_4 0 s2 x7_im_a4 0 -8.328542112830021e+16
Gr8_re_2_4 0 s2 x8_re_a4 0 -3815159411749198.0
Gr8_im_2_4 0 s2 x8_im_a4 0 -4145099962819966.0
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.7221393444511161e-13
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 4.396443193087424e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 253930416064.79025
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -253930416064.79025
Rp2_im_im_a2 0 x2_im_a2 4.396443193087424e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 2.0180011065671953e-08
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 3068405681.898521
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -3068405681.898521
Rp3_im_im_a2 0 x3_im_a2 2.0180011065671953e-08
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.7239657449517335e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 2260097173.6995287
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -2260097173.6995287
Rp4_im_im_a2 0 x4_im_a2 1.7239657449517335e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 1.621819706336256e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 1845330443.1955483
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -1845330443.1955483
Rp5_im_im_a2 0 x5_im_a2 1.621819706336256e-08
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.481140851724921e-08
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 1009654114.2511266
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -1009654114.2511266
Rp6_im_im_a2 0 x6_im_a2 1.481140851724921e-08
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.4043946267669873e-08
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 598294982.0440353
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -598294982.0440353
Rp7_im_im_a2 0 x7_im_a2 1.4043946267669873e-08
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.3815511828295456e-08
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 196101589.43515402
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -196101589.43515402
Rp8_im_im_a2 0 x8_im_a2 1.3815511828295456e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -0.0009076258408701413
Fd3_1 0 s3 V1 -0.04538129204350707
Gr1_3_1 0 s3 x1_a1 0 86035584147.72319
Gr2_re_3_1 0 s3 x2_re_a1 0 1254854529.1420348
Gr2_im_3_1 0 s3 x2_im_a1 0 80792706.36307403
Gr3_re_3_1 0 s3 x3_re_a1 0 2.1333361869660422e+17
Gr3_im_3_1 0 s3 x3_im_a1 0 -1.845534651420633e+17
Gr4_re_3_1 0 s3 x4_re_a1 0 -2.1250339152946995e+18
Gr4_im_3_1 0 s3 x4_im_a1 0 6.394456540519313e+17
Gr5_re_3_1 0 s3 x5_re_a1 0 2.831904149196661e+18
Gr5_im_3_1 0 s3 x5_im_a1 0 -2.7624761985364787e+17
Gr6_re_3_1 0 s3 x6_re_a1 0 -7.107394057345763e+17
Gr6_im_3_1 0 s3 x6_im_a1 0 -3.1211051042781997e+17
Gr7_re_3_1 0 s3 x7_re_a1 0 -2.0545157687465904e+17
Gr7_im_3_1 0 s3 x7_im_a1 0 -8.724119811070349e+16
Gr8_re_3_1 0 s3 x8_re_a1 0 -4012876680987618.5
Gr8_im_3_1 0 s3 x8_im_a1 0 -4341994062111784.0
Gd3_2 0 s3 p2 0 -7.872459058792671e-06
Fd3_2 0 s3 V2 -0.00039362295293963355
Gr1_3_2 0 s3 x1_a2 0 727644050.250281
Gr2_re_3_2 0 s3 x2_re_a2 0 8401809.584234588
Gr2_im_3_2 0 s3 x2_im_a2 0 387899.0108438761
Gr3_re_3_2 0 s3 x3_re_a2 0 1673746820586778.0
Gr3_im_3_2 0 s3 x3_im_a2 0 -1370427519055706.8
Gr4_re_3_2 0 s3 x4_re_a2 0 -1.6004840276727968e+16
Gr4_im_3_2 0 s3 x4_im_a2 0 4750840655365233.0
Gr5_re_3_2 0 s3 x5_re_a2 0 2.1101253656866196e+16
Gr5_im_3_2 0 s3 x5_im_a2 0 -2053382060534211.2
Gr6_re_3_2 0 s3 x6_re_a2 0 -5222906326127269.0
Gr6_im_3_2 0 s3 x6_im_a2 0 -2319387797835932.0
Gr7_re_3_2 0 s3 x7_re_a2 0 -1517579798833132.2
Gr7_im_3_2 0 s3 x7_im_a2 0 -648307992696288.9
Gr8_re_3_2 0 s3 x8_re_a2 0 -29674122194273.94
Gr8_im_3_2 0 s3 x8_im_a2 0 -32266145267564.17
Gd3_3 0 s3 p3 0 0.023897868333743355
Fd3_3 0 s3 V3 1.1948934166871679
Gr1_3_3 0 s3 x1_a3 0 -2276324398602.683
Gr2_re_3_3 0 s3 x2_re_a3 0 -37246777919.98527
Gr2_im_3_3 0 s3 x2_im_a3 0 -2404715829.5501704
Gr3_re_3_3 0 s3 x3_re_a3 0 -6.712944535782892e+18
Gr3_im_3_3 0 s3 x3_im_a3 0 5.543514423409241e+18
Gr4_re_3_3 0 s3 x4_re_a3 0 6.4596189751857816e+19
Gr4_im_3_3 0 s3 x4_im_a3 0 -1.9215845760099828e+19
Gr5_re_3_3 0 s3 x5_re_a3 0 -8.530932544402434e+19
Gr5_im_3_3 0 s3 x5_im_a3 0 8.304697544308888e+18
Gr6_re_3_3 0 s3 x6_re_a3 0 2.1162114677762404e+19
Gr6_im_3_3 0 s3 x6_im_a3 0 9.380923798507252e+18
Gr7_re_3_3 0 s3 x7_re_a3 0 6.143852542329135e+18
Gr7_im_3_3 0 s3 x7_im_a3 0 2.6221317449744097e+18
Gr8_re_3_3 0 s3 x8_re_a3 0 1.2011319420496605e+17
Gr8_im_3_3 0 s3 x8_im_a3 0 1.3050301362195613e+17
Gd3_4 0 s3 p4 0 -1.9561732395279384e-05
Fd3_4 0 s3 V4 -0.000978086619763969
Gr1_3_4 0 s3 x1_a4 0 3585544199.881074
Gr2_re_3_4 0 s3 x2_re_a4 0 248203981.8959647
Gr2_im_3_4 0 s3 x2_im_a4 0 19506776.0835686
Gr3_re_3_4 0 s3 x3_re_a4 0 1.390380737466889e+16
Gr3_im_3_4 0 s3 x3_im_a4 0 -2.080126203117267e+16
Gr4_re_3_4 0 s3 x4_re_a4 0 -2.1404148419164547e+17
Gr4_im_3_4 0 s3 x4_im_a4 0 7.178509407058429e+16
Gr5_re_3_4 0 s3 x5_re_a4 0 3.109799392863015e+17
Gr5_im_3_4 0 s3 x5_im_a4 0 -3.0902851794327508e+16
Gr6_re_3_4 0 s3 x6_re_a4 0 -8.631015628135715e+16
Gr6_im_3_4 0 s3 x6_im_a4 0 -3.4978790504859444e+16
Gr7_re_3_4 0 s3 x7_re_a4 0 -2.406576522124608e+16
Gr7_im_3_4 0 s3 x7_im_a4 0 -9778159068021068.0
Gr8_re_3_4 0 s3 x8_re_a4 0 -466342178612594.6
Gr8_im_3_4 0 s3 x8_im_a4 0 -486674834023837.6
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 1.7221393444511161e-13
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 4.396443193087424e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 253930416064.79025
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -253930416064.79025
Rp2_im_im_a3 0 x2_im_a3 4.396443193087424e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 2.0180011065671953e-08
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 3068405681.898521
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -3068405681.898521
Rp3_im_im_a3 0 x3_im_a3 2.0180011065671953e-08
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 1.7239657449517335e-08
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 2260097173.6995287
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -2260097173.6995287
Rp4_im_im_a3 0 x4_im_a3 1.7239657449517335e-08
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 1.621819706336256e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 1845330443.1955483
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -1845330443.1955483
Rp5_im_im_a3 0 x5_im_a3 1.621819706336256e-08
Cx6_re_a3 x6_re_a3 0 1.0
Gx6_re_a3 0 x6_re_a3 p3 0 0.1414213562373095
Fx6_re_a3 0 x6_re_a3 V3 7.0710678118654755
Rp6_re_re_a3 0 x6_re_a3 1.481140851724921e-08
Gp6_re_im_a3 0 x6_re_a3 x6_im_a3 0 1009654114.2511266
Cx6_im_a3 x6_im_a3 0 1.0
Gp6_im_re_a3 0 x6_im_a3 x6_re_a3 0 -1009654114.2511266
Rp6_im_im_a3 0 x6_im_a3 1.481140851724921e-08
Cx7_re_a3 x7_re_a3 0 1.0
Gx7_re_a3 0 x7_re_a3 p3 0 0.1414213562373095
Fx7_re_a3 0 x7_re_a3 V3 7.0710678118654755
Rp7_re_re_a3 0 x7_re_a3 1.4043946267669873e-08
Gp7_re_im_a3 0 x7_re_a3 x7_im_a3 0 598294982.0440353
Cx7_im_a3 x7_im_a3 0 1.0
Gp7_im_re_a3 0 x7_im_a3 x7_re_a3 0 -598294982.0440353
Rp7_im_im_a3 0 x7_im_a3 1.4043946267669873e-08
Cx8_re_a3 x8_re_a3 0 1.0
Gx8_re_a3 0 x8_re_a3 p3 0 0.1414213562373095
Fx8_re_a3 0 x8_re_a3 V3 7.0710678118654755
Rp8_re_re_a3 0 x8_re_a3 1.3815511828295456e-08
Gp8_re_im_a3 0 x8_re_a3 x8_im_a3 0 196101589.43515402
Cx8_im_a3 x8_im_a3 0 1.0
Gp8_im_re_a3 0 x8_im_a3 x8_re_a3 0 -196101589.43515402
Rp8_im_im_a3 0 x8_im_a3 1.3815511828295456e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 -7.65213318062968e-06
Fd4_1 0 s4 V1 -0.000382606659031484
Gr1_4_1 0 s4 x1_a1 0 699695966.9720477
Gr2_re_4_1 0 s4 x2_re_a1 0 7259638.136937518
Gr2_im_4_1 0 s4 x2_im_a1 0 286398.06864084967
Gr3_re_4_1 0 s4 x3_re_a1 0 1627491144076088.5
Gr3_im_4_1 0 s4 x3_im_a1 0 -1280316453159936.8
Gr4_re_4_1 0 s4 x4_re_a1 0 -1.5112712320209044e+16
Gr4_im_4_1 0 s4 x4_im_a1 0 4440262449046727.5
Gr5_re_4_1 0 s4 x5_re_a1 0 1.9765390645780804e+16
Gr5_im_4_1 0 s4 x5_im_a1 0 -1919831257532664.8
Gr6_re_4_1 0 s4 x6_re_a1 0 -4840461512795861.0
Gr6_im_4_1 0 s4 x6_im_a1 0 -2168133641727387.2
Gr7_re_4_1 0 s4 x7_re_a1 0 -1412073439367009.5
Gr7_im_4_1 0 s4 x7_im_a1 0 -606024378168084.0
Gr8_re_4_1 0 s4 x8_re_a1 0 -27634558036281.945
Gr8_im_4_1 0 s4 x8_im_a1 0 -30161599251442.71
Gd4_2 0 s4 p2 0 -0.0009166556801539544
Fd4_2 0 s4 V2 -0.04583278400769772
Gr1_4_2 0 s4 x1_a2 0 85550817059.40843
Gr2_re_4_2 0 s4 x2_re_a2 0 1097257720.7276723
Gr2_im_4_2 0 s4 x2_im_a2 0 67841168.74926847
Gr3_re_4_2 0 s4 x3_re_a2 0 2.1314797504127734e+17
Gr3_im_4_2 0 s4 x3_im_a2 0 -1.7604105334786797e+17
Gr4_re_4_2 0 s4 x4_re_a2 0 -2.0512668556673715e+18
Gr4_im_4_2 0 s4 x4_im_a2 0 6.102249691041664e+17
Gr5_re_4_2 0 s4 x5_re_a2 0 2.7090951296573363e+18
Gr5_im_4_2 0 s4 x5_im_a2 0 -2.6372764542918934e+17
Gr6_re_4_2 0 s4 x6_re_a2 0 -6.720522125139087e+17
Gr6_im_4_2 0 s4 x6_im_a2 0 -2.9790427406820896e+17
Gr7_re_4_2 0 s4 x7_re_a2 0 -1.9510963261643325e+17
Gr7_im_4_2 0 s4 x7_im_a2 0 -8.326943160607099e+16
Gr8_re_4_2 0 s4 x8_re_a2 0 -3814409837967917.5
Gr8_im_4_2 0 s4 x8_im_a2 0 -4144304151131897.0
Gd4_3 0 s4 p3 0 -2.0418321933103307e-05
Fd4_3 0 s4 V3 -0.0010209160966551654
Gr1_4_3 0 s4 x1_a3 0 3664673478.207711
Gr2_re_4_3 0 s4 x2_re_a3 0 249242110.63513106
Gr2_im_4_3 0 s4 x2_im_a3 0 19569890.97903901
Gr3_re_4_3 0 s4 x3_re_a3 0 1.3994286534414006e+16
Gr3_im_4_3 0 s4 x3_im_a3 0 -2.0904420028320524e+16
Gr4_re_4_3 0 s4 x4_re_a3 0 -2.1515704446011174e+17
Gr4_im_4_3 0 s4 x4_im_a3 0 7.214170533322344e+16
Gr5_re_4_3 0 s4 x5_re_a3 0 3.125395933668842e+17
Gr5_im_4_3 0 s4 x5_im_a3 0 -3.105660330063762e+16
Gr6_re_4_3 0 s4 x6_re_a3 0 -8.672502736163189e+16
Gr6_im_4_3 0 s4 x6_im_a3 0 -3.515268347471166e+16
Gr7_re_4_3 0 s4 x7_re_a3 0 -2.418318421603845e+16
Gr7_im_4_3 0 s4 x7_im_a3 0 -9826768157164132.0
Gr8_re_4_3 0 s4 x8_re_a3 0 -468625080591362.06
Gr8_im_4_3 0 s4 x8_im_a3 0 -489094153136778.25
Gd4_4 0 s4 p4 0 0.022398903134146327
Fd4_4 0 s4 V4 1.1199451567073164
Gr1_4_4 0 s4 x1_a4 0 -2002849729017.772
Gr2_re_4_4 0 s4 x2_re_a4 0 -18470470980.284412
Gr2_im_4_4 0 s4 x2_im_a4 0 -858619097.6032994
Gr3_re_4_4 0 s4 x3_re_a4 0 -6.084430662922545e+18
Gr3_im_4_4 0 s4 x3_im_a4 0 4.1936037020785925e+18
Gr4_re_4_4 0 s4 x4_re_a4 0 5.139343816679054e+19
Gr4_im_4_4 0 s4 x4_im_a4 0 -1.4565039748269087e+19
Gr5_re_4_4 0 s4 x5_re_a4 0 -6.534948828294001e+19
Gr5_im_4_4 0 s4 x5_im_a4 0 6.305511572053664e+18
Gr6_re_4_4 0 s4 x6_re_a4 0 1.5393477796191906e+19
Gr6_im_4_4 0 s4 x6_im_a4 0 7.116318820118023e+18
Gr7_re_4_4 0 s4 x7_re_a4 0 4.5575329306553083e+18
Gr7_im_4_4 0 s4 x7_im_a4 0 1.989048106722399e+18
Gr8_re_4_4 0 s4 x8_re_a4 0 8.947014699812611e+16
Gr8_im_4_4 0 s4 x8_im_a4 0 9.899298446004197e+16
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 1.7221393444511161e-13
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 4.396443193087424e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 253930416064.79025
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -253930416064.79025
Rp2_im_im_a4 0 x2_im_a4 4.396443193087424e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 2.0180011065671953e-08
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 3068405681.898521
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -3068405681.898521
Rp3_im_im_a4 0 x3_im_a4 2.0180011065671953e-08
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 1.7239657449517335e-08
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 2260097173.6995287
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -2260097173.6995287
Rp4_im_im_a4 0 x4_im_a4 1.7239657449517335e-08
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 1.621819706336256e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 1845330443.1955483
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -1845330443.1955483
Rp5_im_im_a4 0 x5_im_a4 1.621819706336256e-08
Cx6_re_a4 x6_re_a4 0 1.0
Gx6_re_a4 0 x6_re_a4 p4 0 0.1414213562373095
Fx6_re_a4 0 x6_re_a4 V4 7.0710678118654755
Rp6_re_re_a4 0 x6_re_a4 1.481140851724921e-08
Gp6_re_im_a4 0 x6_re_a4 x6_im_a4 0 1009654114.2511266
Cx6_im_a4 x6_im_a4 0 1.0
Gp6_im_re_a4 0 x6_im_a4 x6_re_a4 0 -1009654114.2511266
Rp6_im_im_a4 0 x6_im_a4 1.481140851724921e-08
Cx7_re_a4 x7_re_a4 0 1.0
Gx7_re_a4 0 x7_re_a4 p4 0 0.1414213562373095
Fx7_re_a4 0 x7_re_a4 V4 7.0710678118654755
Rp7_re_re_a4 0 x7_re_a4 1.4043946267669873e-08
Gp7_re_im_a4 0 x7_re_a4 x7_im_a4 0 598294982.0440353
Cx7_im_a4 x7_im_a4 0 1.0
Gp7_im_re_a4 0 x7_im_a4 x7_re_a4 0 -598294982.0440353
Rp7_im_im_a4 0 x7_im_a4 1.4043946267669873e-08
Cx8_re_a4 x8_re_a4 0 1.0
Gx8_re_a4 0 x8_re_a4 p4 0 0.1414213562373095
Fx8_re_a4 0 x8_re_a4 V4 7.0710678118654755
Rp8_re_re_a4 0 x8_re_a4 1.3815511828295456e-08
Gp8_re_im_a4 0 x8_re_a4 x8_im_a4 0 196101589.43515402
Cx8_im_a4 x8_im_a4 0 1.0
Gp8_im_re_a4 0 x8_im_a4 x8_re_a4 0 -196101589.43515402
Rp8_im_im_a4 0 x8_im_a4 1.3815511828295456e-08
.ENDS s_equivalent
